US06747023B1
1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[[6-(2-hydroxyethyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]piperazine hydrochloride
The crude product, which had been obtained by the reaction in the same manner as in Example B-32 by using 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride (132 mg) and glyoxylic hydrate (82 mg) as starting materials, was suspended in tetrahydrofuran (50 ml). Triethylamine (0.22 ml) and ethyl chloroformate (0.03 ml) were added to the resulting suspension under ice cooling, followed by stirring at room temperature for 15 minutes. To the reaction mixture, sodium borohydride (50 mg) and water (10 ml) were added to the reaction mixture and the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure. The residue was diluted with dichloromethane, washed with saturated aqueous NaCl solution and dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (dichloromethane˜dichloromethane:methanol 100:3), followed by dissolution in saturated hydrochloride in ethanol (1 ml). The resulting solution was then concentrated under reduced pressure. The concentrate was pulverized and washed in ethyl acetate, whereby the title compound (52 mg, 33%) was obtained.

reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | 132 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1SC=2CNCCC2N1
reactant | Triethylamine | 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.03 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 50 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[[6-(2-hydroxyethyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]piperazine hydrochloride | 52 mg, 33% | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1SC=2CNC(CC2N1)CCO | InChI=1S/C23H25ClN4O4S2.ClH/c24-17-3-1-16-12-19(4-2-15(16)11-17)34(31,32)28-8-6-27(7-9-28)23(30)22-26-20-13-18(5-10-29)25-14-21(20)33-22;/h1-4,11-12,18,25,29H,5-10,13-14H2;1H
